### PR TITLE
TotallyDisconnected

### PR DESCRIPTION
**Pull request by haowen214**
finished the bijectivity proof of connectedComponentsLift_prod, but i think it's false for this to be a homeomorphism

### CODE REVIEW

File: Proetale/Mathlib/Topology/Connected/TotallyDisconnected.lean [hunk 1]
```diff
@@ -132,35 +132,29 @@ theorem connectedComponent.prod (s : S) (t : T) :
...
+      have hs : IsConnected (connectedComponent s) :=
+        isConnected_connectedComponent
+      have ht : IsConnected (connectedComponent t) :=
+        isConnected_connectedComponent
+      rw [h]
+      exact IsConnected.isPreconnected (hs.prod ht)
+    · intro ⟨cs, ct⟩
+      obtain ⟨s, rfl⟩ := ConnectedComponents.surjective_coe cs
+      obtain ⟨t, rfl⟩ := ConnectedComponents.surjective_coe ct
+      exact ⟨mk (s, t), rfl⟩
```
Comment (chrisflav) [inline Proetale/Mathlib/Topology/Connected/TotallyDisconnected.lean:157]: Thanks! I have nothing to say about the mathematics, I just changed the style a bit:
```suggestion
  refine ⟨Continuous.connectedComponentsLift_injective _ ?_, ?_⟩
  · intro ⟨cs, ct⟩
    obtain ⟨s, rfl⟩ := ConnectedComponents.surjective_coe cs
    obtain ⟨t, rfl⟩ := ConnectedComponents.surjective_coe ct
    have h : (fun x : S × T ↦ (mk x.1, mk x.2)) ⁻¹' {⟨mk s, mk t⟩} =
        connectedComponent s ×ˢ connectedComponent t := by
      ext x
      simp [connectedComponent_eq_iff_mem]
    rw [h]
    exact (isConnected_connectedComponent.prod isConnected_connectedComponent).isPreconnected
  · intro ⟨cs, ct⟩
    obtain ⟨s, rfl⟩ := ConnectedComponents.surjective_coe cs
    obtain ⟨t, rfl⟩ := ConnectedComponents.surjective_coe ct
    exact ⟨mk (s, t), rfl⟩
```
A few hints:
- Often you can merge an `intro y; rcases y with ...` into one `(r)intro`.
- If a proof is only used once, I tend to inline the `have` statement, like for the `isConnected_connectedComponent`.
- `simp` can rewrite in an `and`, so you can usually avoid `and_congr` and co.

**Review by chrisflav — APPROVED** [review]

File: Proetale/Mathlib/Topology/Connected/TotallyDisconnected.lean (hunk 1 above)
Comment (haowen214) [reply Proetale/Mathlib/Topology/Connected/TotallyDisconnected.lean:157]: Got it! Thank you very much!!
